Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percodan / Percocet / Codeine / Pseudoephedrine / lisinopril / 
simvastatin
 
Attending: ___.
 
Chief Complaint:
Rib Pain
 
Major Surgical or Invasive Procedure:
None this hospitalization.
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of 
alcohol abuse, bipolar disorder, hypertension, hyperlipidemia, 
and tobacco abuse who presents with rib pain and SI secondary to 
rib pain as well as EtOH withdrawal symptoms.

Patient reports that on ___ she was walking down steps and 
likely tripped over pajama pants and fell down ___ steps. She 
landed on the concrete floor on her left side. She also notes 
that she hit the back of her head. She was able to get back up 
but is unsure is she blacked out or lost consciousness. She 
denies intoxication during the event. She then saw the large 
bruise on her left side and at the advice of her friend came to 
the ___ ED yesterday. Head and neck imaging was negative but 
abdominal CT revealed an acute mildly displaced fracture of the 
left posterior 11th rib and an acute non-displaced left 
posterior tenth rib fracture. She was discharged with 
azithromycin for possible bronchitis and an incentive 
spirometer.

Since discharge she reports continued severe pain and an ongoing 
cough. She took tylenol at home without relief. She notes that 
she considered taking all of her home medications at one time 
this morning to "stop the pain". She decided to call ___ and 
they brought her to the ED. She reports depressed mood, worse 
over past week prior to injury. Denies fevers/chills, headache, 
chest pain, abdominal pain/ nausea/vomiting, and diarrhea.

She was recently hospitalized ___ for EtOH withdrawal 
with an initial stay in the ICU. During that time, she was also 
treated for a urinary tract infection, mild pancreatitis, 
influenza, and C. diff.

In the ED, initial vitals: 96.3 120 160/82 18 96% RA. Labs 
notable for WBC 7.3, H/H 13.2/37.7, Plt 224, Na 136, BUN/Cr 
___, lactate 1.3, serum tox positive for tylenol, and urine 
tox positive for benzos. Patient was given 2L NS, oxycodone PO 
5mg, diazepam PO 10mg x 2, Duonebs, folic acid PO 1mg, thiamin 
PO, MVI, and nicotine patch 21mg. In the ED, she reported SI 
secondary to severe pain. Vitals prior to transfer: 97.3 108 
133/79 16 95% RA. She was admitted to medicine with pain control 
and rib fracture.

On arrival to the floor, patient reports ___ left flank pain. 
She denies current SI and HI. She has noted herself to be more 
depressed because she is no longer sober and recognizes that she 
needs to get help. She feels very badly about her EtOH relapse. 
Her last drink was ___ shot of vodka on ___ at noon. She 
reports chills/sweats, sore and dry throat, pain with deep 
breaths, and watery non-bloody diarrhea for the past five days. 
She denies headache, double or blurry vision, chest pain, 
palpitations, shortness of breath, abdominal pain, and 
nausea/vomiting.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Hospitalizations: ___ ___ dual diagnosis and 
reports that she relapsed shortly after she was discharged. The 
___ of ___ and ___ and ___ admitted to ___. Arbour,JP 
___, she has had greater than 20 hospitalizations. CSU 
admission ___.
- Current treaters and treatment: Psychiatrist Dr. ___ 
___, NP at ___, Therapist ___ 
___
- Medication trials: Trileptal, Depakote, Lithium, Risperidone
- Self-injury: Reports that she has "tried to cut her wrists and 
jump in front of the trolley" but denies actual attempts, per 
her former psychiatrist Dr. ___ in the past she has "come 
close" lined up all her pill bottles and they were taken away 
from her.

PAST MEDICAL HISTORY:
- Bipolar Disorder
- Hypertension
- Hyperlipidemia
- Emphysema
- Osteopenia
- s/p rotator cuff repair
 
Social History:
The patient was born and raised in ___. She has four 
brothers. Father deceased and was an abusive alcoholic. She 
graduated from high school but did not attend college. She was 
married for ___ years to an abusive alcoholic man. She has a son 
and daughter and she has limited contact with her children due 
to her EtOH. She lives alone in an apartment in ___. She 
has a past history of arrest of assaulting a police officer when 
he is intoxicated. She is not currently working but enjoys her 
gardening club. She has been drinking heavily for the past ___ 
years, multiple detoxes and dual diagnosis admissions. Denies 
withdrawal seizures or DT's. She had been sober for the past 
four months but started to drink again about 2 weeks ago after 
she found out a man she had been dating since ___ was 
married to another woman. This past week she has been drinking 
___ to 1 pint of vodka daily. She still has been going to her 
groups and AA. History of prior cocaine but denies recent use. 
Denies any other illicit drug use. Smokes tobacco ___ ppd for 
over ___ years.
 
Family History:
Father, paternal uncles, and maternal uncles with EtOH abuse. 
Mother with ___ Disease.
 
Physical Exam:
#ERROR!
Admission Physical Exam:
#ERROR!
Vitals: Temp 98.4, BP 153/81, HR 111, RR 20, O2 sat 97% RA.
General: Alert, oriented, in no acute distress.  
HEENT: EOMI, PERLLA, sclerae anicteric, MMM, oropharynx clear, 
tongue with white plaques.
Neck: Supple, JVP not elevated, no LAD.
Lungs: Unable to take deep breaths secondary to pain but 
otherwise clear to ausculatation bilaterally. 
CV: Tachycardic, regular rhythm, normal s1/s2, no m/r/g.
Abdomen: Soft, non-distended, non-tender, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.
Skin: Left flank with large ecchymosis.   
Neuro: A&Ox3, CN2-12 intact, no focal deficits, bilateral hand 
coarse tremors.

#ERROR!
Discharge Physical Exam:
#ERROR!
Vitals: Temp 97.4/98.0 , BP 144/88, HR 73, RR 18, O2 sat 96% RA.
General: Alert, oriented, in no acute distress.  
HEENT: EOMI, PERLLA, sclerae anicteric, MMM, oropharynx clear, 
tongue with white plaques.
Neck: Supple, JVP not elevated, no LAD.
Lungs: Unable to take deep breaths secondary to pain but 
otherwise clear to ausculatation bilaterally. 
CV: Tachycardic, regular rhythm, normal s1/s2, no m/r/g.
Abdomen: Soft, non-distended, non-tender, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.
Skin: Left flank with large ecchymosis.   
Neuro: A&Ox3, CN2-12 intact, no focal deficits, no tremors.
 
Pertinent Results:
#ERROR!
Admission Labs:
#ERROR!
___ 09:20AM BLOOD WBC-7.3 RBC-3.84* Hgb-13.2 Hct-37.7 
MCV-98 MCH-34.4* MCHC-35.0 RDW-15.7* RDWSD-55.4* Plt ___
___ 09:20AM BLOOD Neuts-79.2* Lymphs-12.4* Monos-7.3 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-5.75 AbsLymp-0.90* 
AbsMono-0.53 AbsEos-0.03* AbsBaso-0.02
___ 09:20AM BLOOD Glucose-111* UreaN-13 Creat-0.6 Na-136 
K-3.8 Cl-97 HCO3-25 AnGap-18
___ 09:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-9* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:42AM BLOOD Lactate-1.3

#ERROR!
Discharge Labs:
#ERROR!
___ 07:50AM BLOOD WBC-4.6 RBC-3.58* Hgb-12.3 Hct-36.5 
MCV-102* MCH-34.4* MCHC-33.7 RDW-15.8* RDWSD-57.9* Plt ___
___ 07:50AM BLOOD Glucose-94 UreaN-8 Creat-0.5 Na-137 K-3.6 
Cl-100 HCO3-24 AnGap-17

#ERROR!
Microbiology:
#ERROR!
___ Strep Throat Swab - Pending
___ Blood Culture x 2 - Pending

#ERROR!
Imaging:
#ERROR!
CT Head w/o Contrast ___
1. No acute intracranial process. 
2. Paranasal sinus disease. 

CT C-Spine w/o Contrast ___
Impression: No acute fracture or traumatic malalignment.

CT Abdomen/Pelvis w/ Contrast ___
1. Acute mildly displaced fracture of the left posterior ___ 
rib. Acute nondisplaced left posterior tenth rib fracture. 
Remote right ___ and 9th rib fractures. 
2. No evidence of solid organ injury in the abdomen/pelvis. 
3. Hepatic steatosis. 
4. 2.2 x 1.7 cm left adrenal lesion, previously characterized as 
an adenoma. 
5. 1.7 cm right adnexal cyst, unchanged from ___.

CXR ___
Impression: No acute cardiopulmonary process. 
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of 
alcohol abuse, bipolar disorder, hypertension, hyperlipidemia, 
and tobacco abuse who presents with rib pain and SI secondary to 
rib pain as well as EtOH withdrawal symptoms. 

# EtOH Withdrawal: Patient has an extensive history of ETOH 
abuse. Last drink was at noon day prior to admission. Negative 
EtOH serum tox screen. No prior history of seizures or DTs. She 
was monitored on CIWA scale and received diazepam as needed. Her 
withdrawal symptoms improved. Social work was consulted. She was 
continued on MVI, thiamine, and folate.

# Rib Fractures: Patient with unwitnessed fall in the setting of 
EtOH intoxication with findings of ___ and 11th rib fractures. 
Her pain was controlled with standing Tylenol, lidocaine patch, 
and oxycodone as needed. She was discharged with tylenol and a 
short course of oxycodone.

# Bipolar Disorder/Depression: Patient reported suicidal 
thoughts of taking bottle of pills while at home due to her 
severe pain. On arrival to the floor she denies suicidal 
thoughts. She states that her SI was in the context of 
experiencing severe pain that she felt was not being adequately 
addressed. She states that if she has
thoughts about harming herself again, she will alert the medical 
team and/or speak to her outpatient treaters if these thoughts 
occur after she is discharged. Social work met with the patient 
who felt the patient was safe to discharge home. She was 
continued on her home depakote.

# Diarrhea: Patient reports increase in diarrhea several days 
after stopping vancomycin for her recent C. diff. She did not 
have significatn diarrhea during her hospitalization. She will 
continue to monitor her diarrhea.

# Oral Candidiasis: Likely secondary to fluticasone inhaler. 
Started nystatin oral suspension four times per day with 
improvement in her pain.

# Hypertension: Continued home amlodipine.

# COPD: Continued home fluticasone.

# Tobacco Abuse: Nicotine patch while hospitalized.

#ERROR!
Transitional Issues:
#ERROR!
- Please ensure close PCP and ___.
- Patient started on nystatin oral suspension for oral 
candidiasis with plan for 14-day course (Day 1 ___, to be 
completed ___. Please continue to monitor and assess for 
resolution.
- Please continue to monitor for diarrhea which would be 
concerning for recurrent C. diff.
- Please continue to address alcohol abuse.
- Patient discharged on short course of oxycodone for rib pain.
- Please ___ pending blood cultures from ___.
- Please note 2.2 x 1.7 cm left adrenal lesion, previously 
characterized as an adenoma. 
- Please note 1.7 cm right adnexal cyst, unchanged from ___.

# Code Status: Full Code  
# Contact:  ___ III (son/HCP) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 
2. Amlodipine 2.5 mg PO DAILY 
3. Cetirizine 10 mg PO DAILY:PRN allergic rhinitis 
4. Divalproex (EXTended Release) 1000 mg PO QHS 
5. FoLIC Acid 1 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Thiamine 100 mg PO DAILY 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
9. Fluticasone Propionate 110mcg 1 PUFF IH BID
 
Discharge Medications:
1. Amlodipine 2.5 mg PO DAILY 
2. Divalproex (EXTended Release) 1000 mg PO QHS 
3. Fluticasone Propionate 110mcg 1 PUFF IH BID 
4. FoLIC Acid 1 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Thiamine 100 mg PO DAILY 
7. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheeze 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
9. Cetirizine 10 mg PO DAILY:PRN allergic rhinitis 
10. Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg Take 2 tablets by mouth three times per 
day. Disp #*21 Tablet Refills:*0
11. Nystatin Oral Suspension 5 mL PO QID 
Plan for 14-day course (Day 1 ___, to be completed ___. 

RX *nystatin 100,000 unit/mL Take 5 mL by mouth four times per 
day. Refills:*0
12. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg Take ___ tablet by mouth every 6 hours Disp 
#*10 Tablet Refills:*0
13. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % Apply to affected area daily. Disp #*7 Patch 
Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Alcohol Withdrawal
- Rib Fractures
- Bipolar Disorder
- Oral Candidiasis

Secondary Diagnosis:
- Hypertension
- COPD
- Tobacco Abuse
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted to the hospital 
after a fall and severe pain. You were found to have left-sided 
rib fractures which were the cause of your pain. Your received 
pain medications and your pain improved. The fractures should 
heal in time and your pain should improve.

You were also found to have symptoms of alcohol withdrawal. You 
were started on a medication to help with your withdrawal 
symptoms and you improved. Please ___ with your outpatient 
Psychiatrist and Therapist.

You also reported some diarrhea that you had at home. However, 
while in the hospital you did not have significant diarrhea. 
Please call your primary care doctor if you have worsening 
diarrhea while at home.

Finally, you were found to have a type of yeast infection in 
your mouth. This may be related to your fluticasone inhaler. It 
is very important to wash your mouth with water every time after 
using your inhaler. You were started on a medication called 
nystatin that you will take four times per day for a total of 
two weeks.

Please ___ with your appointments as below. Please call 
your Therapist and Psychiatrist to schedule a ___ 
appointment.

All the best,
Your ___ Team
 
Followup Instructions:
___